US08791123B2
To a solution of (2S,5R)-tert-butyl 5-(5-fluoropyridin-3-yl)-2-(hydroxymethyl)-2-methylpyrrolidine-1-carboxylate (200 mg, 0.644 mmol) in DCM (5 mL) was added 4M HCl in dioxane (1.61 mL, 6.44 mmol). The reaction was stirred at ambient temperature for 16 hours and then concentrated to afford ((2S,5R)-5-(5-fluoropyridin-3-yl)-2-methylpyrrolidin-2-yl)methanol hydrochloride (130 mg, 96% yield). MS (apci) m/z=211.1 (M+H).

reactant | (2S,5R)-tert-butyl 5-(5-fluoropyridin-3-yl)-2-(hydroxymethyl)-2-methylpyrrolidine-1-carboxylate | 0.644 mmol, 200 mg | FC=1C=C(C=NC1)[C@H]1CC[C@@](N1C(=O)OC(C)(C)C)(C)CO | C16H23FN2O3
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 6.44 mmol, 1.61 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | ((2S,5R)-5-(5-fluoropyridin-3-yl)-2-methylpyrrolidin-2-yl)methanol hydrochloride | 130 mg, 96% yield | Cl.FC=1C=C(C=NC1)[C@H]1CC[C@@](N1)(C)CO | InChI=1S/C11H15FN2O.ClH/c1-11(7-15)3-2-10(14-11)8-4-9(12)6-13-5-8;/h4-6,10,14-15H,2-3,7H2,1H3;1H/t10-,11+;/m1./s1
